US05416089
Part B: 7-Methyl-9,10-dihydroacephenanthrene
A solution of 7-hydroxy-7-methyl-7,8,9,10-tetrahydroacephenanthrene (0.15 g, 0.64 mmol) and camphorsulfonic acid (0.02 g, 0.064 mmol) in toluene (20 mL) was heated at reflux for 1 h. The reaction was allowed to cool and was diluted with ethyl acetate (20 mL). The organic solution was washed with saturated aqueous sodium carbonate solution (3×15 mL) and water (3×15 mL), dried over magnesium sulfate, and concentrated under reduced pressure. The reaction product was purified by flash chromatography to give 0.13 g (92%) of the product: MS (CI) m/e (%) 221 (M+H+, 100); 1H NMR (CDCl3, 300 MHz) δ 7.69 (d, 1H, J=8.4 Hz), 7.44 (dd, 1H, J=7.0, 8.4 Hz), 7.32 (s, 1H), 7.21 (d, 1H, J=6.9 Hz), 5.94 (m, 1H), 3.38 (s, 4H), 3.09 (t, 2H, J=8.5 Hz), 2.52 (m, 2H), 2.16 (m, 3H).

reactant | 7-hydroxy-7-methyl-7,8,9,10-tetrahydroacephenanthrene | 0.64 mmol, 0.15 g | OC1(C=2C=C3CCC4=CC=CC(C2CCC1)=C43)C | C17H18O
reactant | camphorsulfonic acid | 0.064 mmol, 0.02 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 7-Methyl-9,10-dihydroacephenanthrene | 0.13 g, 92% | CC=1C=2C=C3CCC4=CC=CC(C2CCC1)=C43 | C17H16
